US06706663B2
Preparation of 3-[3-(3-Butyl-2-thiazolidinyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde (0.500 g, 1.41 mmol), 2-(butylamino)ethanethiol (0.250 ml, 1.69 mmol), ethanol and tetrahydrofuran is stirred overnight at room temperature and concentrated in vacuo. The residue is chromatographed on silica gel with ethyl acetate-hexanes to afford the title compound as a light yellow solid (0.210 g, 31.7%, mp 78-82° C.) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 1.41 mmol, 0.500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
reactant | 2-(butylamino)ethanethiol | 1.69 mmol, 0.250 ml | C(CCC)NCCS | C6H15NS
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[3-(3-Butyl-2-thiazolidinyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.210 g, 31.7% | C(CCC)N1C(SCC1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C20H21F3N4O2S2
